US06599918B2
4-Hydroxy-3-Iodo-Benzonitrile
To a solution of 4-hydroxy-3-iodo-benzaldehyde (7.9 g, 31.8 mmol) (prepared by the method of Barnes at al.; J. Chem. Soc., 1950, 2824) in xylene (120 mL) was added hydroxylamine hydrochloride (2.34 g, 33.4 mmol), magnesium sulphate (12.7 g) and p-toluene sulphonic acid monohydrate (1.27 g, 6.4 mmol). The resulting mixture was heated to reflux and stirred at this temperature for 90 min. The reaction mixture was then allowed to cool to room temperature and filtered. The solid was washed with ethyl acetate then the combined filtrates concentrated. The residue was purified by flash chromatography (eluting with 30% ethyl acetate in hexanes) to give 6.57 g of the title compound. 1H NMR (CDCl3) d 6.1 (bs, 1H), 7.05 (d, J=8 Hz, 1H), 7.55 (dd, J=8, 1 Hz, 1H), 7.99 (d, J=1 Hz, 1H).

reactant | 4-hydroxy-3-iodo-benzaldehyde | 31.8 mmol, 7.9 g | OC1=C(C=C(C=O)C=C1)I | C7H5IO2
reactant | hydroxylamine hydrochloride | 33.4 mmol, 2.34 g | Cl.NO
reactant | magnesium sulphate | 12.7 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | p-toluene sulphonic acid monohydrate | 6.4 mmol, 1.27 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 120 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-3-Iodo-Benzonitrile | 6.57 g | OC1=C(C=C(C#N)C=C1)I | C7H4INO
